US08222435B2
Methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate
The mixture of methyl (3E)-3-(2,2-dimethyl-1,3-dioxolan-4-ylidene)-2-oxopropanoate (20 g, 0.1 mol) and 2-hydrazino-3-chloropyridine (21.4 g, 0.15 mol) in 150 ml of isopropanol was stirred for 8 hours at RT. The precipitate was filtered off and washed with hexane. This gave 27.6 g (85%) of the product as a pale yellow solid with a m.p. of 113-115° C.

reactant | methyl (3E)-3-(2,2-dimethyl-1,3-dioxolan-4-ylidene)-2-oxopropanoate | 0.1 mol, 20 g | CC1(OC/C(/O1)=C\C(C(=O)OC)=O)C | C9H12O5
reactant | 2-hydrazino-3-chloropyridine | 0.15 mol, 21.4 g | N(N)C1=NC=CC=C1Cl | C5H6ClN3
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | Methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(CC1(C(=O)OC)O)CO | C11H12ClN3O4
